US03953434
A solution of 6.7 g (0.02 moles) of 3a,4,6,7,8,9,9a,9b-octahydro-4-(p-methoxyphenyl)-2,7-dimethyl-2H-pyrrolo[3,4-f]-isoquinoline-1,3-dione in 100 ml of dichloromethane-ether (1:1) is added to a slurry of 3 g (0.08 moles) lithium aluminum hydride in 300 ml dichloromethane-ether (1:1) under nitrogen. This is refluxed for 18 hours. Saturated sodium carbonate solution is added at room temperature until the reaction is white. The salts are filtered and washed with dichloromethane. The combined filtrates are evaporated to yield 5.5 g (90%) 1,3,3a,4,6,7,8,9,9a,9b-decahydro-4-(p-methoxyphenyl)-2,7-dimethyl-2H-pyrrolo[3,4-f]isoquinoline. This is dissolved in isorpopanol-ether, and hydrochloric acid in isopropanol is added until the solution is acidic to pH paper. Excess ether is added and the white solid product is filtered.

reactant | 3a,4,6,7,8,9,9a,9b-octahydro-4-(p-methoxyphenyl)-2,7-dimethyl-2H-pyrrolo[3,4-f]-isoquinoline-1,3-dione | 0.02 moles, 6.7 g | COC1=CC=C(C=C1)C1C2C(C3CCN(CC3=C1)C)C(N(C2=O)C)=O | C20H24N2O3
reactant | lithium aluminum hydride | 0.08 moles, 3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 1,3,3a,4,6,7,8,9,9a,9b-decahydro-4-(p-methoxyphenyl)-2,7-dimethyl-2H-pyrrolo[3,4-f]isoquinoline | 5.5 g, 90% | COC1=CC=C(C=C1)C1C2C(C3CCN(CC3=C1)C)CN(C2)C | C20H28N2O
